US07838547B2
N-[4-(4-Acetyl-1-oxa-4,7-diazaspiro[4,4]non-7-yl)phenyl]-4-butoxybenzamide
A mixture of 4-butoxy-N-[4-(3-oxopyrrolidin-1-yl)phenyl]benzamide (70 mg), ethanolamine (12 mg), potassium carbonate (27 mg) and dichloromethane (3 ml) was stirred for 48 hours, and then acetyl chloride (16 mg) was added. After 20 hours, the mixture was diluted with dichloromethane, washed with water, dried over magnesium sulfate and concentrated. The residue was purified by preparative HPLC. The product with the molecular weight of 437.54 (C25H31N3O4); MS (ESI): 438 (M+H+) was obtained in this way.

reactant | 4-butoxy-N-[4-(3-oxopyrrolidin-1-yl)phenyl]benzamide | 70 mg | C(CCC)OC1=CC=C(C(=O)NC2=CC=C(C=C2)N2CC(CC2)=O)C=C1 | C21H24N2O3
reactant | ethanolamine | 12 mg | C(O)CN | C2H7NO
reactant | potassium carbonate | 27 mg | C([O-])([O-])=O.[K+].[K+]
reactant | acetyl chloride | 16 mg | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | N-[4-(4-Acetyl-1-oxa-4,7-diazaspiro[4,4]non-7-yl)phenyl]-4-butoxybenzamide | C(C)(=O)N1CCOC12CN(CC2)C2=CC=C(C=C2)NC(C2=CC=C(C=C2)OCCCC)=O | C25H31N3O4
